US05834468
2-Benzyloxy-5-bromobenzaldehyde and ethyl 4-aminomethylbenzoate were heated together at 100° C. for 1 hour. The mixture was cooled, dissolved in ethanol (100 ml) and sodium borohydride (1.3 g) was added. The mixture was stirred for 18 hours at ambient temperature, acidified with acetic acid and water (200 ml) was added. The mixture was extracted with diethyl ether (4×100 ml), the extracts washed with saturated aqueous NaHCO3, dried (MgSO4), filtered and evaporated to give ethyl 4-[N-(2-benzyloxy-5-bromobenzyl)aminomethyl]benzoate which was purified by chromatography on silica gel eluting with CH2Cl2 then 5% ethyl acetate/CH2Cl2 (yield 11.4 g).

reactant | 2-Benzyloxy-5-bromobenzaldehyde | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C=C1)Br | C14H11BrO2
reactant | ethyl 4-aminomethylbenzoate | NCC1=CC=C(C(=O)OCC)C=C1 | C10H13NO2
reactant | sodium borohydride | 1.3 g | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | ethyl 4-[N-(2-benzyloxy-5-bromobenzyl)aminomethyl]benzoate | C(C1=CC=CC=C1)OC1=C(CNCC2=CC=C(C(=O)OCC)C=C2)C=C(C=C1)Br | C24H24BrNO3
